US04649146
A solution of bromine (10.8 g) in methylene chloride (5 ml) was dropwise added to a solution of ethyl 5-acetyl-2-hydroxy-4-thiazolecarboxylate (12.9 g) in a mixture of methylene chloride (150 ml) and acetic acid (10 ml) at 30° C. to 35° C. with stirring and the mixture was stirred at the same temperature for 30 minutes. An insoluble material was filtered off. The filtrate was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was triturated with diisopropyl ether to give ethyl 5-(2-bromoacetyl)-2-hydroxy-4-thiazolecarboxylate (16.7 g). mp 105°-108° C.

reactant | bromine | 10.8 g | BrBr | Br2
reactant | ethyl 5-acetyl-2-hydroxy-4-thiazolecarboxylate | 12.9 g | C(C)(=O)C1=C(N=C(S1)O)C(=O)OCC | C8H9NO4S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | ethyl 5-(2-bromoacetyl)-2-hydroxy-4-thiazolecarboxylate | 16.7 g | BrCC(=O)C1=C(N=C(S1)O)C(=O)OCC | C8H8BrNO4S
